US08492582B2
To a solution mixture of the obtained methyl 2-(2-(benzyloxy)-5-(2-(diethylamino)ethoxy)benzamido)-4-phenylbenzoate (0.15 g) in methanol (3.0 mL) and ethyl acetate (3.0 mL), 10% palladium-carbon (0.030 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-96% chloroform/methanol] to obtain 0.087 g of methyl 2-(5-(2-(diethylamino)ethoxy)-2-hydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | methyl 2-(2-(benzyloxy)-5-(2-(diethylamino)ethoxy)benzamido)-4-phenylbenzoate | 0.15 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN(CC)CC | C34H36N2O5
solvent | methanol | 3.0 mL | CO | CH4O
solvent | ethyl acetate | 3.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.030 g | [C].[Pd]
product | methyl 2-(5-(2-(diethylamino)ethoxy)-2-hydroxybenzamido)-4-phenylbenzoate | 0.087 g | C(C)N(CCOC=1C=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C1)O)CC | C27H30N2O5
